US07105545B2
Acetylchloride (0.7 g, 8.9 mmol) is slowly added to a cooled (0° C.) mixture of 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide (3.0 g, 8.0 mmol) and pyridine (0.7 g, 8.9 mmol) in 30 ml of dichloromethane. The reaction mixture is stirred for 2 hours at room temperature and subsequently poured on ice and extracted with ethyl acetate. The combined organic extracts are washed with brine, dried over sodium sulfate and the solvent is evaporated, the residue is purified by chromatography on silica gel to give 2-acetoxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide. 1H-NMR (300 MHz, CDCl3): 2.13 (s, 3H, CH3CO2), 2.52 (t, 1H, C≡CH), 2.80 (t, 2H, CH2CH2), 3.57 (t, 2H, CH2CH2), 3.87 (s, 3H, OCH3), 4.79 (d, 2H, OCH2C≡C), 6.03 (s, 1H, CHOH), 6.65–7.34 (m, 8H, CH arom., NH).

reactant | Acetylchloride | 8.9 mmol, 0.7 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-(4-chloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | 8.0 mmol, 3.0 g | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)O | C20H20ClNO4
reactant | pyridine | 8.9 mmol, 0.7 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-acetoxy-2-(4-chloro-phenyl)-N-[2-(3-methoxy-4-prop-2-ynyloxy-phenyl)-ethyl]-acetamide | C(C)(=O)OC(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)C1=CC=C(C=C1)Cl | C22H22ClNO5
